US07041667B1
N-(1-Benzyl-4-piperidinyl)-2-(4-fluorophenyl)acetamide
1-Benzyl-4-piperidinylamine (5 g, 26.1 mmol), 2-(4-fluorophenyl)acetic acid (4 g, 26 mmol), 1-hydroxybenzotriazole monohydrate (3.89 g, 28.6 mmol), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (6 g, 31.2 mmol) and triethylamine (4.4 ml, 31.2 mmol) were stirred together for 18 hours in dichloromethane (250 ml). The mixture was evaporated under reduced pressure and the residue dissolved in ethyl acetate before washing with water (x3). The organic layer was dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as a white solid, 9 g.

reactant | 1-Benzyl-4-piperidinylamine | 26.1 mmol, 5 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | 2-(4-fluorophenyl)acetic acid | 26 mmol, 4 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 1-hydroxybenzotriazole monohydrate | 28.6 mmol, 3.89 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 31.2 mmol, 6 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 31.2 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-(1-Benzyl-4-piperidinyl)-2-(4-fluorophenyl)acetamide | C(C1=CC=CC=C1)N1CCC(CC1)NC(CC1=CC=C(C=C1)F)=O | C20H23FN2O
